US07498337B2
[5-(4-cyclohexylphenyl)-1H-pyrrol-3-yl]methanol
To a solution of methyl 5-(4-cyclohexylphenyl)-1H-pyrrole-3-carboxylate (3.0 g) in absolute tetrahydrofuran (40 mL) was added dropwise a 1.5 mol/L solution (21.0 mL) of diisobutylaluminum hydride in toluene at −78° C. The mixture was further stirred at the same temperature for 2 hr. To the reaction mixture was added 1 mol/L hydrochloric acid, and the mixture was diluted with ethyl acetate. The insoluble material was filtered off through celite, and the filtrate was extracted with ethyl acetate. The extract was washed with saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (eluent: hexane-ethyl acetate=1:1) to give the title compound as crystals (yield 1.07 g, 40%).

reactant | methyl 5-(4-cyclohexylphenyl)-1H-pyrrole-3-carboxylate | 3.0 g | C1(CCCCC1)C1=CC=C(C=C1)C1=CC(=CN1)C(=O)OC | C18H21NO2
reactant | diisobutylaluminum hydride | [H-].C(C(C)C)[Al+]CC(C)C
reactant | hydrochloric acid | 1 mol/L | Cl | ClH
solvent | tetrahydrofuran | 40 mL | O1CCCC1 | C4H8O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | [5-(4-cyclohexylphenyl)-1H-pyrrol-3-yl]methanol | yield 1.07 g, 40% | C1(CCCCC1)C1=CC=C(C=C1)C1=CC(=CN1)CO | C17H21NO
